US06514964B1
Step F: N-[6-(3-aminopropyl)(2-pyridyl)](tert-butoxy)carboxamide
To a solution of (tert-butoxy)-N-[6-(3-(hydroxyimino)propyl)(2-pyridyl)]carboxamide in ethanol/acetic acid (4 eq/1 eq, 0.1M) under nitrogen was added 5% palladium on carbon. The reaction was stirred under hydrogen at 60 psi for 18 hr. The reaction was filtered thru celite and concentrated in vacuo to yield the product. EI-MS m/z 252(M+H)+

reactant | (tert-butoxy)-N-[6-(3-(hydroxyimino)propyl)(2-pyridyl)]carboxamide | C(C)(C)(C)OC(=O)NC1=NC(=CC=C1)CCC=NO | C13H19N3O3
reactant | ethanol acetic acid | 0.1M, 4 eq | C(C)O.C(C)(=O)O
catalyst | palladium on carbon | [Pd] | Pd
product | N-[6-(3-aminopropyl)(2-pyridyl)](tert-butoxy)carboxamide | NCCCC1=CC=CC(=N1)NC(=O)OC(C)(C)C | C13H21N3O2
